US04213984
5,11-Dihydro-11-{[4-(3-methyl-but-2-enyl)-1-piperazinyl]acetyl}-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride
8.62 gm of 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one, 3.5 gm of sodium carbonate and 5.07 gm of 1-(3-methyl-but-2-enyl)-piperazine [R1 =--CH2 --CH=C(CH3)2 ] were refluxed in 100 ml of isopropanol for 2.5 hours. Then, the reaction mixture was suction-filtered while still hot, and the filtrate evaporated to a volume of 40 ml and cooled. The precipitated crystals were dissolved, while heating, in 100 ml of absolute ethanol, and the calculated quantity of concentrated hydrochloric acid was added. Upon cooling, the dihydrochloride crystallized out.

reactant | 11-chloroacetyl-5,11-dihydro-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one | 8.62 gm | ClCC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C14H10ClN3O2
reactant | sodium carbonate | 3.5 gm | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-(3-methyl-but-2-enyl)-piperazine | 5.07 gm | CC(=CCN1CCNCC1)C | C9H18N2
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 5,11-Dihydro-11-{[4-(3-methyl-but-2-enyl)-1-piperazinyl]acetyl}-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one dihydrochloride | Cl.Cl.CC(=CCN1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)C | InChI=1S/C23H27N5O2.2ClH/c1-17(2)9-11-26-12-14-27(15-13-26)16-21(29)28-20-8-4-3-6-18(20)23(30)25-19-7-5-10-24-22(19)28;;/h3-10H,11-16H2,1-2H3,(H,25,30);2*1H
